* Test 7 - Shared-ground crosstalk between two channels
* ----------------------------------------------------------------------------
* Proves TESTING_PLAN Part 1 #7. Two unit cells share a finite star-ground
* return impedance RG (sg -> true ground). Each V_RTD is Kelvin-sensed across
* its own RTD (midX - sg), so the common ground bounce is rejected; the residual
* coupling is second-order, entering only through the CRD's finite dynamic
* impedance Z_CRD (sg bounce shifts the voltage across the aggressor's CRD and
* thus its current). We perturb channel A's RTD across the full Pt100 range and
* watch channel B's recovered ratio move. Sweeping RG sets the max acceptable
* star-ground resistance.
* Self-contained (two channels), reuses crd/meas. Channel B held at RTD_0.
* Output (per RG): rrtdA(scale)  ratioB = v(nrtdB)/v(nrefB)
* ----------------------------------------------------------------------------
.include sim/models/params.inc
.include sim/models/crd.inc
.include sim/models/meas.inc

.param RTD_B = 100         $ victim channel RTD, fixed [Ohm]

Vrail rail 0 DC {VRAIL_NOM}
* shared knob nodes (no tempco/offset for this test)
Vdt   dt   0 DC 0
Vtcgr tcgr 0 DC 0
Voff  off  0 DC 0
Vkca  kca  0 DC 1
Vkcb  kcb  0 DC 1
* aggressor RTD value (swept) carried as a node
Vrrtda rrtda 0 DC {RTD_0}
* shared star-ground return impedance (alter to sweep)
RG sg 0 1

* ---- Channel A (aggressor) ----
Xcrda rail topA kca crd
RrefA topA midA {R_REF0}
RrtdA midA sg R = 'v(rrtda)'
XrefA topA midA nrefA              adc_vref
XrtdA midA sg   nrtdA dt tcgr off  adc_vrtd

* ---- Channel B (victim) ----
Xcrdb rail topB kcb crd
RrefB topB midB {R_REF0}
RrtdB midB sg {RTD_B}
XrefB topB midB nrefB              adc_vref
XrtdB midB sg   nrtdB dt tcgr off  adc_vrtd

.control
set wr_singlescale
set wr_vecnames
* victim ratio vs aggressor RTD, at several star-ground resistances
alter RG = 0.01
dc Vrrtda 80 158 1
wrdata reports/sim/data/test7_rg_0p01.dat (v(nrtdB)/v(nrefB))
alter RG = 0.1
dc Vrrtda 80 158 1
wrdata reports/sim/data/test7_rg_0p1.dat  (v(nrtdB)/v(nrefB))
alter RG = 1
dc Vrrtda 80 158 1
wrdata reports/sim/data/test7_rg_1.dat    (v(nrtdB)/v(nrefB))
alter RG = 10
dc Vrrtda 80 158 1
wrdata reports/sim/data/test7_rg_10.dat   (v(nrtdB)/v(nrefB))
.endc
.end