* Test 7 - Shared-ground crosstalk between two channels
* ----------------------------------------------------------------------------
* Proves TESTING_PLAN Part 1 #7. Two unit cells share a finite star-ground return
* impedance RG (sg -> true ground). The shared return turns each channel's current
* into a common-mode voltage v(sg) = (I_A + I_B)*RG at the OTHER channel's sense
* inputs. The differential ratiometric readout rejects that common mode to first
* order; the residual coupling enters through the ADCs' FINITE CMRR.
*
* IMPORTANT (review fix): perturbing the aggressor RTD does NOT work as a test -
* the victim metric V_RTD/V_ref cancels the channel current algebraically, AND a
* current source holds I_A ~constant when its RTD changes, so v(sg) barely moves.
* The physical aggressor is a change in aggressor CURRENT. We sweep the aggressor
* CRD over its +/-20 % band (kca 0.8..1.2 = dI_A ~ 96 uA at 240 uA), which directly
* moves v(sg), and watch the victim's recovered R via CMRR leakage. Sweeping RG
* sets the max acceptable star-ground resistance.
*
* CMRR: T7 90 dB, ADS1115 105 dB (datasheet-class, linear ratios below).
* Self-contained (two channels), reuses crd/meas. Victim B held at RTD_B = 100.
* Output (per RG): kca(scale)  ratioB = v(nrtdB)/v(nrefB)
* ----------------------------------------------------------------------------
.include sim/models/params.inc
.include sim/models/crd.inc
.include sim/models/meas.inc

.param RTD_B    = 100          $ victim channel RTD, fixed [Ohm]
.param CMRR_T7  = 31623        $ T7 CMRR, 90 dB  -> 10^(90/20)
.param CMRR_ADS = 177828       $ ADS1115 CMRR, 105 dB -> 10^(105/20)

Vrail rail 0 DC {VRAIL_NOM}
* shared knob nodes (no tempco/offset for this test)
Vdt   dt   0 DC 0
Vtcgr tcgr 0 DC 0
Voff  off  0 DC 0
Vkca  kca  0 DC 1              $ aggressor current scale (swept 0.8..1.2)
Vkcb  kcb  0 DC 1              $ victim current scale (nominal)
* shared star-ground return impedance (alter to sweep)
RG sg 0 1

* ---- Channel A (aggressor) ----
Xcrda rail topA kca crd
RrefA topA midA {R_REF0}
RrtdA midA sg {RTD_0}
XrefA topA midA nrefA              adc_vref  cmrr={CMRR_ADS}
XrtdA midA sg   nrtdA dt tcgr off  adc_vrtd  cmrr={CMRR_T7}

* ---- Channel B (victim) ----
Xcrdb rail topB kcb crd
RrefB topB midB {R_REF0}
RrtdB midB sg {RTD_B}
XrefB topB midB nrefB              adc_vref  cmrr={CMRR_ADS}
XrtdB midB sg   nrtdB dt tcgr off  adc_vrtd  cmrr={CMRR_T7}

.control
set wr_singlescale
set wr_vecnames
* victim ratio vs aggressor current, at several star-ground resistances
alter RG = 0.01
dc Vkca 0.8 1.2 0.005
wrdata reports/sim/data/test7_rg_0p01.dat (v(nrtdB)/v(nrefB))
alter RG = 0.1
dc Vkca 0.8 1.2 0.005
wrdata reports/sim/data/test7_rg_0p1.dat  (v(nrtdB)/v(nrefB))
alter RG = 1
dc Vkca 0.8 1.2 0.005
wrdata reports/sim/data/test7_rg_1.dat    (v(nrtdB)/v(nrefB))
alter RG = 10
dc Vkca 0.8 1.2 0.005
wrdata reports/sim/data/test7_rg_10.dat   (v(nrtdB)/v(nrefB))
.endc
.end